US08614328B2
Methyl iodide (30.2 g, 213 mmol) was added to a stirred mixture of 3-nitrophthalic acid (15.0 g, 71.0 mmol) and sodium bicarbonate (23.9 g, 284 mmol) in DMF (150 mL) at room temperature, and the mixture was then heated in an oil bath set to 60° C. for 4 h. The mixture was then poured into 700 mL of ice water. After the ice melted, the mixture was extracted with ethyl acetate (3×150 mL) and the organic phases were washed with water (7×500 mL), dried (MgSO4) and evaporated, providing 16.2 g of 3-nitrophthalic acid dimethyl ester as a pale yellow solid, in 95% yield; 1H NMR (CDCl3) δ 3.95 (s, 3H), 4.02 (s, 3H), 7.69 (t, J=8.1 Hz, 1H), 8.36 (m, 2H).

reactant | Methyl iodide | 213 mmol, 30.2 g | CI | CH3I
reactant | 3-nitrophthalic acid | 71.0 mmol, 15.0 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | sodium bicarbonate | 284 mmol, 23.9 g | C([O-])(O)=O.[Na+]
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 3-nitrophthalic acid dimethyl ester | 16.2 g, 95% yield | COC(C=1C(C(=O)OC)=C(C=CC1)[N+](=O)[O-])=O | C10H9NO6
